* Z:\mnt\design.r\spice\examples\4079.asc
C1 N002 0 4
R1 N002 N004 1.54Meg
R2 N004 N007 249K
R3 N008 0 3K
V1 N001 0 PWL(0 0 100u 9)
Rthermistor N010 0
R4 N009 N010 9.1K
D1 N001 N005 NSPW500BS
R5 N006 N005 5K
V2 TEMP 0 PWL(0 25 60 45 80 45 100 30)
XU1 N001 N001 N008 N009 N010 N006 N007 N004 N002 0 LTC4079
S1 N002 0 N003 0 SDIS
V3 N003 0 PWL(0 0 180 0 +10u 1 +1 1 +10u 0)
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 300
.model SDIS SW(Ron=1 Roff=1G Vt=.5 Vh=-.3)
* Timing is Paused When NTC voltage out of range
* Current Limit to Control Die Temperature NOT MODELED
* Initial Condition Required on Capacitor\nto Avoid Bad Battery Shutdown
.lib LTC4079.sub
.backanno
.end
